US04871865
Phenol (8 g, 85 mmole) and potassium carbonate (11.7 g, 85 mmole) in 150 mL of N,N-dimethylformamide was reacted with methyl 4-bromo-α-bromo-2-toluate (20 g, 65 mmole) by the procedure of Example 2, step a and folloed with alkaline hydrolysis by the procedure of Example 2, step b to give the crude 4-bromo-2-phenoxybenzoic acid (13 g) which was used without further purification.

reactant | Phenol | 85 mmole, 8 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 85 mmole, 11.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-bromo-α-bromo-2-toluate | 65 mmole, 20 g | BrC=1C=C(C(=CC1)CBr)C(=O)OC | C9H8Br2O2
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 4-bromo-2-phenoxybenzoic acid | 13 g | BrC1=CC(=C(C(=O)O)C=C1)OC1=CC=CC=C1 | C13H9BrO3
